US08685969B2
4-(3-(6-Chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-7-(3-hydroxypropoxy)-9H-pyrido[3,4-b]indole-1-carboxamide
A mixture of 4-(3-(6-chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-7-hydroxy-9H-pyrido[3,4-b]indole-1-carboxamide (32 mg, 0.066 mmol) and cesium carbonate (25.9 mg, 0.080 mmol) in DMF (3 mL) was heated at 75° C. for 4 hr. The mixture was diluted with ethyl acetate (60 mL), washed with water (2×20 mL) and brine (20 mL), and dried over anhydrous MgSO4. The organic solution was concentrated under vacuum and the residue was purified by reverse phase HPLC. The correct fraction was concentrated under vacuum, basified with saturated NaHCO3 solution, and extracted with ethyl acetate (3×30 mL). The combined extract was washed with brine (30 mL) and dried over anhydrous MgSO4. Removal of solvent under vacuum provided the desired product (6.2 mg, 0.011 mmol, 16.6% yield) as a yellow solid. LCMS (M+H)+=541.28. 1H NMR (500 MHz, DMSO-d6) δ: 11.70 (s, 1H), 8.35 (s, 1H), 8.24 (s, 1H), 7.87 (s, 1H), 7.80-7.78 (m, 3H), 7.72 (m, 1H), 7.59 (m, 1H), 7.50 (m, 1H), 7.41 (d, J=2.2 Hz, 1H), 7.19 (d, J=8.9 Hz, 1H), 6.74 (dd, J1=8.9 Hz, J2=2.4 Hz, 1H), 5.09 (d, J=17.5 Hz, 1H), 5.00 (d, J=17.5 Hz, 1H), 4.17 (m, 2H), 3.65 (m, 2H), 1.97 (m, 2H), 1.92 (s, 3H).

reactant | 4-(3-(6-chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-7-hydroxy-9H-pyrido[3,4-b]indole-1-carboxamide | 0.066 mmol, 32 mg | ClC1=CC=C2CN(C(C2=C1)=O)C=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)O)C(=O)N)C | C27H19ClN4O3
reactant | cesium carbonate | 0.080 mmol, 25.9 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-(3-(6-Chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-7-(3-hydroxypropoxy)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.011 mmol, 6.2 mg, 16.6% yield | ClC1=CC=C2CN(C(C2=C1)=O)C=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)OCCCO)C(=O)N)C | C30H25ClN4O4
